US04567035
Preparation of 50/50 Alternating Vinyl Acetate/Ethyl Maleate Copolymer
Part A above was repeated except that 535 ml of acetone were introduced into the kettle in place of 480 ml of toluene and the vinyl acetate/maleic anhydride polymerization was carried out at 53° C. instead of 63-65° C. Esterification of the VA/MA was achieved with 262 g of absolute ethanol by conducting the reaction at 70-75° C. for about 3 hours. The acetone was distilled off and the vinyl acetate/ethyl maleate (VA/EM) alternating copolymer was recovered as a solution of 44.18% copolymer solids in ethanol having a relative viscosity of 1.26, a specific viscosity of 0.26 and a K value of 31.

reactant | acetone | 535 ml | CC(=O)C | C3H6O
reactant | toluene | 480 ml | C1(=CC=CC=C1)C | C7H8
reactant | vinyl acetate maleic anhydride | C(C)(=O)OC=C.C1(\C=C/C(=O)O1)=O
solvent | ethanol | 262 g | C(C)O | C2H6O
product | Vinyl Acetate Ethyl Maleate | C(C)(=O)OC=C.C(\C=C/C(=O)[O-])(=O)OCC | InChI=1S/C6H8O4.C4H6O2/c1-2-10-6(9)4-3-5(7)8;1-3-6-4(2)5/h3-4H,2H2,1H3,(H,7,8);3H,1H2,2H3/p-1/b4-3-;
